US07893056B2
Tris(1,1-dimethylethyl)2-(2-chloro-5-fluoro-6-{[2-(3-thienyl)ethyl]amino}-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate (2.389 g, 4.07 mmol) was dissolved in MeOH (25 mL) and HCl (4M in 1,4-dioxane) (25 mL) at room temperature. The reaction mixture was left to stir over 3 days, evaporated and purified by RP-HPLC to provide 2-chloro-5-fluoro-6-{[2-(3-thienyl)ethyl]amino}-4(1H)-pyrimidinone hydrazone as a brown sticky solid (0.1401 g). LCMS: (M+H)+=288.0.

reactant | Tris(1,1-dimethylethyl)2-(2-chloro-5-fluoro-6-{[2-(3-thienyl)ethyl]amino}-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 4.07 mmol, 2.389 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)NCCC1=CSC=C1)Cl)C(=O)OC(C)(C)C | C25H35ClFN5O6S
reactant | HCl | 4M, 25 mL | Cl | ClH
solvent | MeOH | 25 mL | CO | CH4O
product | 2-chloro-5-fluoro-6-{[2-(3-thienyl)ethyl]amino}-4(1H)-pyrimidinone hydrazone | 0.1401 g | ClC=1NC(=C(C(N1)=NN)F)NCCC1=CSC=C1 | C10H11ClFN5S
